US07109354B2
a) 2-Bromo-6-dimethoxymethyl-pyridine
The procedure in Example 6: step b was followed using 6-bromo-pyridine-2-carbaldehyde (600 mg, 3.23 mmol), trimethyl orthoformate (8 mL), and toluenesulfonic acid (100 mg) in MeOH (50 mL). Analogous aqueous workup yielded the product (743 mg) which was used without further purification.

reactant | 6-bromo-pyridine-2-carbaldehyde | 3.23 mmol, 600 mg | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | trimethyl orthoformate | 8 mL | C(OC)(OC)OC | C4H10O3
reactant | toluenesulfonic acid | 100 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | MeOH | 50 mL | CO | CH4O
product | 2-Bromo-6-dimethoxymethyl-pyridine | 743 mg | BrC1=NC(=CC=C1)C(OC)OC | C8H10BrNO2
